* AD8614/AD8644 SPICE Macro-model
* Description: Amplifier
* Generic Desc: Single high-voltage LCD driver
* Developed by: Troy Murphy / ADSC
* Revision History: 08/10/2012 - Updated to new header style
* 0.0 (11/1999)
* Copyright 1996, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Node Assignments
*                      noninverting input
*                      |       inverting input
*                      |       |       positive supply
*                      |       |       |       negative supply
*                      |       |       |       |       output
*                      |       |       |       |       |
*                      |       |       |       |       |
.SUBCKT AD8614         1       2       99      50      45
*
* RAIL-TO-RAIL INPUT STAGE
*
Q1    5  7  3 PIX
Q2    6  2  4 PIX
Q3   11  7 13 NIX
Q4   12  2 14 NIX
RC1   5 50 2310
RC2   6 50 2310
RC3  99 11 2310
RC4  99 12 2310
RE1   3 10 620
RE2   4 10 620
RE3  13 15 620
RE4  14 15 620
I1   99 10 300E-6
I2   15 50 300E-6
RCM1 10 99 5.58E+5
RCM2 15 50 5.58E+5
CCM1 10 99 1.43E-11
CCM2 15 50 1.43E-11
C1    5  6 1.19E-12
C2   11 12 1.19E-12
D1    3  8 DX
D2    4  9 DX
D3   16 13 DX
D4   17 14 DX
V1   99  8 DC 0.7
V2   99  9 DC 0.7
V3   16 50 DC 0.7
V4   17 50 DC 0.7
EOS   7  1 POLY(2) (73,98) (81,98) 1E-3 1 1
IOS   1  2 10E-9
*
* PSRR=100dB, ZERO AT 100Hz
*
RPS1 70  0 1E+6
RPS2 71  0 1E+6
CPS1 99 70 1E-5
CPS2 50 71 1E-5
EPSY 98 72 POLY(2) (70,0) (0,71) 0 1 1
RPS3 72 73 15.9E+6
CPS3 72 73 50E-12
RPS4 73 98 159
*
* VOLTAGE NOISE REFERENCE OF 10nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 16.45E-3
HN  81 98 VN1 10
RN2 81 98 1
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 .5 .5
GSY  99 50 POLY(1) (99,50) 41.121E-6 5E-6
EVP  97 98 (99,50) 0.5
EVN  51 98 (50,99) 0.5
*
* GAIN STAGE
*
G1   98 30 POLY(2) (5,6) (11,12) 0 3.125E-4 3.125E-4
R1   30 98 2.25E+6
CF   30 45 49E-12
D5   30 97 DX
D6   51 30 DX
*
* RAIL-TO-RAIL OUTPUT STAGE
*
Q5   45 41 99 POUT
Q6   45 43 50 NOUT
EB1  99 40 POLY(1) (98,30) 0.7129 1
EB2  42 50 POLY(1) (30,98) 0.7129 1
RB1  40 41 500
RB2  42 43 500
D7   46 99 DX
D8   47 43 DX
V5   46 41 0.5
V6   47 50 0.5
*
.MODEL NIX NPN (BF=220,IS=1E-16,VAF=130,KF=2.5E-14)
.MODEL PIX PNP (BF=220,IS=1E-16,VAF=130,KF=2.5E-14)
.MODEL POUT PNP (BF=100,IS=1E-16,VAF=200,RC=4)
.MODEL NOUT NPN (BF=100,IS=1E-16,VAF=200,RC=4)
.MODEL DX D(IS=1E-16,RS=5)
.ENDS AD8614







